US09399651B2
2-(1-hydroxyethyl)-1-[3-(isoquinolin-4-yl)phenyl]-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one
To a 100 mL round-bottom flask were added 4.20 g (9.76 mmol) of 2-(1-hydroxyethyl)-1-[3-bromophenyl]-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one, 3.38 g (19.52 mmol) isoquinolin-4-ylboronic acid, 0.75 g (0.97 mmol) 1,-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex. The flask was equipped with a condenser, evacuated, and purged with nitrogen. Evacuation was repeated three times and 50 mL THF and 40 mL 1 M aq cesium carbonate were added. The reaction mixture was heated at 80° C. for 3 h, Upon cooling, the organic layer was separated, washed with 15 mL water, dried over Na2S04 filtered, stirred over Quadrapure TU resin (Aldrich), concentrated in vacuo, and used without further purification, LCMS (M+H)+ 479.5.

reactant | 2-(1-hydroxyethyl)-1-[3-bromophenyl]-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | 9.76 mmol, 4.20 g | OC(C)C=1N(C=C(C(C1)=O)OCC1=CC=C(C=C1)OC)C1=CC(=CC=C1)Br | C21H20BrNO4
reactant | isoquinolin-4-ylboronic acid | 19.52 mmol, 3.38 g | C1=NC=C(C2=CC=CC=C12)B(O)O | C9H8BNO2
product | 2-(1-hydroxyethyl)-1-[3-(isoquinolin-4-yl)phenyl]-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | OC(C)C=1N(C=C(C(C1)=O)OCC1=CC=C(C=C1)OC)C1=CC(=CC=C1)C1=CN=CC2=CC=CC=C12 | C30H26N2O4
